US05789415
Step 1, ethyl 2-methoxymethyl-4-hydroxypyrimidine-5-acetate
Sodium metal (0.754 mol) was dissolved in absolute ethanol (100 ml) and the resulting solution was added dropwise to a solution of methoxyacetamidine hydrochloride (0.703 mol) in ethanol (100 ml). After 15 minutes the reaction mixture was filtered and the filtrate was added to a solution of diethyl formylsuccinate (0.703 mol), which was prepared according to H. Nakao et al. Ann. Sankyo Res. Lab., 18, 33-37 (1966). The reaction was refluxed for 15 hours, cooled to room temperature and was then concentrated to obtain a crude solid. This solid was crystallized from isopropanol to obtain the title compound (43% yield), m.p. 142°-143° C.

reactant | Sodium | 0.754 mol | [Na] | Na
reactant | methoxyacetamidine hydrochloride | 0.703 mol | Cl.COCC(=N)N
reactant | diethyl formylsuccinate | 0.703 mol | C(=O)C(C(=O)OCC)CC(=O)OCC | C9H14O5
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-methoxymethyl-4-hydroxypyrimidine-5-acetate | 43% yield | COCC1=NC=C(C(=N1)O)CC(=O)OCC | C10H14N2O4
